Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
collapse
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ is a ___ M h/o HTN, psoriasis and psoriatic
arthritis on ixekizumab, anxiety, depression, who presents with
witnessed loss of consciousness. 

He collapsed with LOC while standing at a ___ game; 
surrounded
by bystanders but no friends or family to witness. He did fall
backward and hit his head on concrete. He received bystander 
CPR.
When EMS arrived he had a pulse and was breathing irregularly. 
He
was found to be hypoglycemic to 40 and he received dextrose.
Given his persistent altered mental status, he was intubated by
EMS with succinylcholine and etomidate, and also required
additional Versed for sedation. Per ED nursing report, he was
following commands with nodding yes and shaking head no. 

In the ED,  
Initial Vitals: ___, 18, 95% intubated 

Exam notable for: Abrasion to left parietal area. Intubated, 27
at the teeth. Neuro exam: intubated, not responding to painful
stimuli

Labs: 
- WBC 6.9, HGB 13.5, 186  
- BMP WNL 
- AST 76, ALT 61, alk phos 100, Tbili 0.5 
- Trop neg x1 
- Lactate 3.3
Utox positive for benzos 
UA overall unremarkable 

Imaging:  
CT spine: No acute cervical fractures identified.
NCHCT: No acute intracranial process 

CXR: Endotracheal tube terminates approximately 4.6 cm above the
carina.  Low lung volumes, which accentuate the bronchovascular 
markings.  Given this, prominence of the central pulmonary
vasculature may be due to vascular engorgement/component of
edema, underlying aspiration not excluded.  Difficult to
accurately assess the cardiomediastinal silhouette due to 
patient
position. 
  
CTA C/A/P: 1. Bibasilar pulmonary consolidations consistent with
aspiration.
2. No acute intra-abdominal findings.

Interventions:  IV DRIP Fentanyl Started 50 mcg/hr, Propofol (20
to 40) 

VS Prior to Transfer:   59, 122/94, 18, 98% fio2 

On arrival to ICU, pt is intubated and sedated. Not following
commands. Propofol had been just increased iso pt pulling at
tube. Spoke with wife ___ by phone, who reports that pt has
a history of dizzy episodes that happen at least once a month,
associated with lip numbness. Has been present for upwards of a
year. Has discussed this with providers in the past though no
diagnosis made. Had been switched off Lisinopril to losartan in
hopes that it might improve this, per wife. Has never checked
fingerstick glucose during dizzy episodes. No syncope. ___ have
had a dizzy spell prior to the presenting event. 

 
Past Medical History:
HTN 
Psoriasis 
Psoriatic arthritis 
Depression 
Anxiety 
s/p gastric bypass ___, ___ 
s/p appendectomy when young 
 
 
Social History:
___
Family History:
Parents alive and relatively healthy in ___. Dad has had "heart
trouble" including MI in the past. 2 brothers had MI in ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================  
VS: reviewed in Metavision   
GEN:  WD WN obese man in NAD, intubated and sedated 
HEENT: PERRL. intubated 
NECK:  c collar still in place
CV:  RRR, no m/r/g
RESP:  CTAB on anterior exam 
GI:  soft, nondistended, nontender 
MSK:  no ___
SKIN:  warm, missing toenails, no rashes on extremities 
NEURO:  sedated on prop, not following commands. per nursing
pulls at tube with suctioning. 
later with decreased prop following commands, giving thumbs up,
opening eyes. +sustained clonus in BLE. 

DISCHARGE PHYSICAL EXAM:  
========================
24 HR Data (last updated ___ @ 815)
    Temp: 98.5 (Tm 99.1), BP: 148/99 (108-148/72-99), HR: 61
(61-74), RR: 20 (___), O2 sat: 94% (93-99), O2 delivery: RA   
GEN: sitting in bed in NAD
HEENT: PERRL
NECK: normal JVP
CV:  RRR, no m/r/g
RESP:  LCTA, normal WOB
GI:  soft, nondistended, nontender 
Ext: warm, no edema, 2+ DP b/l
SKIN: no rashes
NEURO: alert and oriented x3, CN III-XII intact, ___ strength in
upper and lower extremities b/l 
 
Pertinent Results:
ADMISSION LABS: 
===============
___ 04:45PM BLOOD WBC-6.9 RBC-4.44* Hgb-13.5* Hct-40.4 
MCV-91 MCH-30.4 MCHC-33.4 RDW-13.0 RDWSD-43.4 Plt ___
___ 04:45PM BLOOD Neuts-51.0 ___ Monos-9.9 Eos-2.2 
Baso-0.9 Im ___ AbsNeut-3.54 AbsLymp-2.21 AbsMono-0.69 
AbsEos-0.15 AbsBaso-0.06
___ 04:45PM BLOOD ___ PTT-30.7 ___
___ 04:45PM BLOOD Glucose-121* UreaN-9 Creat-1.0 Na-141 
K-3.8 Cl-105 HCO3-23 AnGap-13
___ 04:45PM BLOOD ALT-61* AST-76* AlkPhos-100 TotBili-0.5
___ 04:45PM BLOOD cTropnT-<0.01
___ 04:45PM BLOOD Albumin-4.6 Calcium-8.6 Phos-4.1 Mg-1.9
___ 11:54PM BLOOD %HbA1c-5.3 eAG-105
___ 04:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:11AM BLOOD ___ Temp-36.8 pO2-52* pCO2-49* 
pH-7.32* calTCO2-26 Base XS--1 As/Ctrl-ASSIST/CON
___ 04:55PM BLOOD Lactate-3.3*
___ 12:11AM BLOOD Lactate-1.0

STUDIES: 
========
CHEST (PORTABLE AP) Study Date of ___  
Patient oblique in position.  Endotracheal tube terminates 
approximately 4.6 cm above the carina.  Low lung volumes, which 
accentuate the bronchovascular markings.  Given this, prominence 
of the central pulmonary vasculature may be due to vascular 
engorgement/component of edema, underlying aspiration not 
excluded.  Difficult to accurately assess the cardiomediastinal 
silhouette due to patient position. 

CT HEAD W/O CONTRAST Study Date of ___ 
No acute intracranial process.

CT C-SPINE W/O CONTRAST Study Date of ___  
No acute cervical fractures identified.

CTA CHEST  Study Date of ___  
1. Bibasilar pulmonary consolidations consistent with 
aspiration. 
2. No acute intra-abdominal findings. 

DISCHARGE LABS
===============

___ 04:18AM BLOOD WBC-7.2 RBC-4.35* Hgb-13.3* Hct-39.0* 
MCV-90 MCH-30.6 MCHC-34.1 RDW-13.0 RDWSD-42.8 Plt ___
___ 04:18AM BLOOD Plt ___
___ 06:06AM BLOOD Glucose-91 UreaN-10 Creat-0.9 Na-143 
K-3.8 Cl-104 HCO3-24 AnGap-15
___ 06:06AM BLOOD ALT-37 AST-36
___:06AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.___ M h/o HTN, psoriasis and psoriatic arthritis on ixekizumab, 
anxiety, depression, who presented with collapse and LOC, 
subsequently found to be hypoglycemic with AMS and irregular 
breathing s/p intubation. 

TRANSITIONAL ISSUES: 
=====================
[] If hypoglycemia recurs, consider sending at time of 
hypoglycemia: insulin, c peptide, proinsulin, BHB, sulfonylurea 
and meglitinide screen 
[] Consider need for cardiac monitor to evaluate for underlying 
arrhythmias 
[] Please make sure to follow up with the Nutritionist from the 
Bariatric Surgery group to help you manage your food choices.
[] Please see your PCP ___ ___ days. 
[] Patient was provided with educational materials on 
appropriate diet choices.

ACUTE ISSUES: 
===============
# Syncope
Witnessed collapse while at ___ and received bystander 
CPR but unclear whether he ever lost a pulse. Details of event 
not available. DDX includes potentially hypoglycemia triggered 
syncope, seizure, less likely cardiac arrest. Of note, patient 
reports history of dizzy episodes, so prior undocumented 
hypoglycemia or cardiac arrhythmia is possible. This admission, 
he had no no events on tele, trops neg x2, TTE showed no 
abnormalities. He was normoglycemic. EEG was unremarkable. 
Infectious workup negative aside from CT chest showing bibasilar 
consolidations c/w aspiration. 

# Hypoglycemia 
Hypoglycemic to 40 upon EMS arrival. No history of DM, not on 
insulin. History of bariatric surgery. He endorses a history of 
these episodes since his surgery, explaining that these episodes 
have been occurring a few times a week since the surgery. He 
also endorses poor dietary choices. This admission he was 
normoglycemic. If hypoglycemia recurs, consider sending at time 
of hypoglycemia: insulin, c peptide, proinsulin, BHB, 
sulfonylurea and meglitinide screen. He was given a lot of 
education regarding checking his FSBS with a glucometer as well 
as acarbose should he experience hypoglycemia unresponsive to po 
sugar.

# Respiratory failure 
Intubated in the field in the setting of altered mental status 
and irregular breathing after collapsing. He was rapidly 
extubated after ICU admission with improvement of mental status 
with weaning of sedation. He was stable on RA. 

CHRONIC ISSUES: 
=================
#HTN: initially held losartan but restarted by discharge 

#Psoriasis 
#Psoriatic arthritis: on outpatient infusions q6 weeks of 
biologic Ixekizumab (Taltz) 

#Depression 
#Anxiety: continued venlafaxine 

#CODE STATUS: full confirmed 
#EMERGENCY CONTACT: ___, spouse (___)

Patient seen and examined before discharge. Agree with summary 
as documented.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. Venlafaxine 75 mg PO BID 
3. ixekizumab 80 mg/mL subcutaneous EVERY 6 WEEKS 

 
Discharge Medications:
1.  Acarbose 25 mg PO X2 PRN low blood sugar 
use if you are feeling dizzy, weak, and/or blood glucose is < 
80. If < 60, take 2 tabs and call EMS 
RX *acarbose 25 mg ___ tablet(s) by mouth as needed Disp #*10 
Tablet Refills:*0 
2.  ixekizumab 80 mg/mL subcutaneous EVERY 6 WEEKS  
3.  Losartan Potassium 25 mg PO DAILY  
4.  Venlafaxine 75 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
Syncope 
Hypoglycemia 
Respiratory failure 

SECONDARY DIAGNOSIS: 
Hypertension 
Anxiety, Depression 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure to care for you at ___ 
___. 

WHY WERE YOU ADMITTED? 
- You collapsed and lost consciousness. You required a breathing 
tube to be placed to support your breathing. 

WHAT HAPPENED IN THE HOSPITAL? 
- You improved rapidly and the breathing tube was removed. 
- Your sugars were checked and they were all normal.

WHAT SHOULD YOU DO AT HOME? 
- Take your medications as written. 
- Please make sure to closely follow a diet that is low in 
glycemic index.
- Please follow up with your primary care doctor. 

We wish you the best, 
Your ___ team 
 
Followup Instructions:
___